US04349674
2-[(1-Methylethylamino)(1-methylethylimino)methylthio]-3-quinoxalinecarboxylic acid ethyl ester, hydrochloride
2-Chloro-3-quinoxalinecarboxylic acid ethyl ester (4.73 g., 0.02 mole) and 3.206 g. (0.02 mole) of 1,3-diisopropylthiourea were dissolved in 90 ml. of acetone and 10 ml. of acetic acid. The solution was heated on the steambath for 23/4 hours and filtered hot. The solvent in the filtrate was evaporated and the residue was triturated with ether until it solidified. Filtration gave 2.33 g. of crude product. Recrystallized from acetone-ether it afforded 1.28 g. (16.1%) of a yellow solid, m.p. 148°-149° C. (dec).

reactant | 2-Chloro-3-quinoxalinecarboxylic acid ethyl ester | 0.02 mole, 4.73 g | C(C)OC(=O)C=1C(=NC2=CC=CC=C2N1)Cl | C11H9ClN2O2
reactant | 1,3-diisopropylthiourea | 0.02 mole | C(C)(C)NC(=S)NC(C)C | C7H16N2S
reactant | acetone | CC(=O)C | C3H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[(1-Methylethylamino)(1-methylethylimino)methylthio]-3-quinoxalinecarboxylic acid ethyl ester, hydrochloride | Cl.C(C)OC(=O)C=1C(=NC2=CC=CC=C2N1)SC(=NC(C)C)NC(C)C | InChI=1S/C18H24N4O2S.ClH/c1-6-24-17(23)15-16(22-14-10-8-7-9-13(14)21-15)25-18(19-11(2)3)20-12(4)5;/h7-12H,6H2,1-5H3,(H,19,20);1H
